US06660753B2
A solution of 2-cyanopyridine (0.18 mL, 1.86 mmol) in methanol (5 mL) was treated with sodium metal (12.8 mg, 0.56 mmol) a stirred at ambient temperature for 1 hour. The reaction mixture was then treated with a solution of 3-cyanobenzhyrazide (0.30 g, 1.86 mmol) in methanol (5 mL) and heated at reflux for 3 hours. The reaction mixture was then concentrated in vacuo. The resulting yellow solid was dissolved in toluene (2 mL) and heated overnight at 175° C. The reaction mixture was concentrated in vacuo. Silica gel chromatography using 2% methanol in dichloromethane afforded 0.12 g (26%) of 2-(2-pyridyl)-5-(3-cyanophenyl)-1,3,4-triazole.

reactant | 2-cyanopyridine | 1.86 mmol, 0.18 mL | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | sodium | 0.56 mmol, 12.8 mg | [Na] | Na
reactant | 3-cyanobenzhyrazide | 1.86 mmol, 0.30 g | C(#N)C=1C=C(C(=O)NN)C=CC1 | C8H7N3O
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | 2-(2-pyridyl)-5-(3-cyanophenyl)-1,3,4-triazole | 0.12 g, 26% | N1=C(C=CC=C1)C=1NC(=NN1)C1=CC(=CC=C1)C#N | C14H9N5
